US06680312B2
A mixture of methyl 2-(4-bromophenyl)-2-[4-(tert-butoxycarbonyl)-2-oxo-1-piperazinyl]acetate (1.28 g), zinc cyanide (211 mg), tetrakis (triphenylphosphine)palladium (139 mg) and DMF (10 ml) was stirred at 80° C. for 6 hours and cooled. To the reaction solution were added ethyl acetate, water and a little amount of ammonia solution. The organic layer was separated, washed with saturated brine, dried and concentrated, and the residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:1) to give yellow syrup of methyl 2-[4-(tert-butoxycarbonyl)-2-oxo-1-piperazinyl]-2-(4-cyanophenyl)acetate (1.01 g).

reactant | methyl 2-(4-bromophenyl)-2-[4-(tert-butoxycarbonyl)-2-oxo-1-piperazinyl]acetate | 1.28 g | BrC1=CC=C(C=C1)C(C(=O)OC)N1C(CN(CC1)C(=O)OC(C)(C)C)=O | C18H23BrN2O5
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ammonia | N | H3N
catalyst | zinc cyanide | 211 mg | [C-]#N.[Zn+2].[C-]#N
solvent | water | O | H2O
product | methyl 2-[4-(tert-butoxycarbonyl)-2-oxo-1-piperazinyl]-2-(4-cyanophenyl)acetate | 1.01 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(C(=O)OC)C1=CC=C(C=C1)C#N)=O | C19H23N3O5
